US08022062B2
Use a method similar to the General Procedure 5-2 to react 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (150 mg, 0.353 mmol), tris(dibenzylideneacetone)dipalladium(0) (64 mg, 0.071 mmol), BINAP (88 mg, 0.141 mmol), 4-cyclohexanecarbonyl-benzylamine (125 mg, 0.576 mmol) and cesium carbonate (230 mg, 0.706 mmol) in degassed toluene (10 mL). Degas the mixture with vacuum/nitrogen purge and heat to 100° C. for 6 h. Cool the mixture to room temperature, dilute with EtOAc and filter through Celite®. Purify the crude mixture by chromatography on silica gel eluting with hexane and then hexane/EtOAc (90:10 and 85:15) to obtain 7-chloro-6-(4-cyclohexanecarbonyl-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as oil (130 mg, 75%). MS (ES+) m/z: 493 (M+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.353 mmol, 150 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | BINAP | 0.141 mmol, 88 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 4-cyclohexanecarbonyl-benzylamine | 0.576 mmol, 125 mg | C1(CCCCC1)C(=O)C1=CC=C(CN)C=C1 | C14H19NO
reactant | cesium carbonate | 0.706 mmol, 230 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.071 mmol, 64 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-chloro-6-(4-cyclohexanecarbonyl-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 130 mg, 75% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)C(=O)C1CCCCC1 | C26H28ClF3N2O2
